US05136044
To 10 ml of 6NB sulfuric acid was added 1 g of N2 -(1(S)-carbamyl-3-phenylpropyl)-N6 -trifluoroacetyl-L-lysine followed by stirring for 15 hours at 80° C., after cooling the mixture to 0° C., 50 ml of water was added thereto, and after adjusting the pH thereof to 5.5 with an aqueous solution of 2N sodium hydroxide and then adjusting the pH to 7.5 with 1 N ammonium hydroxide, the volatile matters were distilled off. To the residue formed was added to 10 ml of ethanol, insoluble inorganic salts were filtered away, and after concentrated the filtrate under reduced pressure, the residual solids were purified by LH-20 chromatography (methanol) to provide 632 mg of N2 -(1(S)-carboxy-3-phenylpropyl)-L-lysyl-L-proline as solids. The properties of the product coincided with those described in Journal of Pharmaceutical Science, 74, 352(1985).

reactant | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
reactant | N2 (1(S)-carbamyl-3-phenylpropyl)-N6 -trifluoroacetyl-L-lysine | 1 g | N#N.C(N)(=O)[C@H](CCC1=CC=CC=C1)N[C@@H](CCCCNC(C(F)(F)F)=O)C(=O)O
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | ammonium hydroxide | 1 N | [OH-].[NH4+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
product | N2 (1(S)-carboxy-3-phenylpropyl)-L-lysyl-L-proline | 632 mg | N#N.C(=O)(O)[C@H](CCC1=CC=CC=C1)N[C@@H](CCCCN)C(=O)N1[C@H](C(=O)O)CCC1 | InChI=1S/C21H31N3O5.N2/c22-13-5-4-9-16(19(25)24-14-6-10-18(24)21(28)29)23-17(20(26)27)12-11-15-7-2-1-3-8-15;1-2/h1-3,7-8,16-18,23H,4-6,9-14,22H2,(H,26,27)(H,28,29);/t16-,17-,18-;/m0./s1
